US07528164B2
2-Amino-3-cyano-4-(3-nitrophenyl)-7-methyl-4H-pyrrolo[2,3-h]chromene
The title compound was prepared from 4-hydroxy-1-methylindole (40 mg, 0.27 mmol), 3-nitrobenzaldehyde (41 mg, 0.27 mmol) and malononitrile (18 mg, 0.27 mmol) similar to Example 24 to yield 61 mg (65%) of white solids. 1H NMR (CDCl3): 8.10 (d, J=7.8 Hz, 1H), 8.05-8.04 (m, 1H), 7.62 (d, J=7.8 Hz, 1H), 7.49 (t, J=7.8 Hz, 1H), 7.08-7.02 (m, 2H), 6.69 (d, J=8.7 Hz, 1H), 6.59 (d, J=3.0 Hz, 1H), 5.00 (s, 1H), 4.76 (s, 2H), 3.78 (s, 3H).

reactant | 4-hydroxy-1-methylindole | 0.27 mmol, 40 mg | OC1=C2C=CN(C2=CC=C1)C | C9H9NO
reactant | 3-nitrobenzaldehyde | 0.27 mmol, 41 mg | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | malononitrile | 0.27 mmol, 18 mg | C(CC#N)#N | C3H2N2
product | 2-Amino-3-cyano-4-(3-nitrophenyl)-7-methyl-4H-pyrrolo[2,3-h]chromene | NC=1OC2=C3C(=CC=C2C(C1C#N)C1=CC(=CC=C1)[N+](=O)[O-])N(C=C3)C | C19H14N4O3
